US07915267B2
ethyl 3-[2-(aminocarbonothioyl)hydrazino]-3-oxopropanoate
To a suspension of hydrazinecarbothioamide (15.0 g, 165 mmol) in pyridine (100 mL) was added dropwise ethyl 3-chloro-3-oxopropanoate (24.8 g, 165 mmol) over 30 min at 0° C., and the reaction solution was stirred at room temperature for 2 days. The reaction mixture was concentrated under reduced pressure, and methanol was added to the residue. The resulting solid was filtered off, the filtrate was concentrated under reduced pressure, and the residue was extracted with ethyl acetate, THF and saturated aqueous ammonium chloride solution. The organic layer was washed with saturated aqueous ammonium chloride solution, dried over sodium sulfate, and concentrated. The residue was crystallized from ethyl acetate and isopropyl ether, and the obtained crystals were washed with isopropyl ether, and dried to give the title compound (14.2 g, 42%).

reactant | hydrazinecarbothioamide | 165 mmol, 15.0 g | N(N)C(N)=S | CH5N3S
reactant | ethyl 3-chloro-3-oxopropanoate | 165 mmol, 24.8 g | ClC(CC(=O)OCC)=O | C5H7ClO3
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 3-[2-(aminocarbonothioyl)hydrazino]-3-oxopropanoate | 14.2 g, 42% | NC(=S)NNC(CC(=O)OCC)=O | C6H11N3O3S
